US08168815B2
Step 2: 6-bromo-7-iodo-2-methylquinoline
To (4-bromo-3-iodophenyl)amine (11.93 g, 40 mmol) was added conc HCl (6 ml), p-chloranil (9.83 g, 1 equiv.) and isopropanol (20 ml) and the mixture was heated to reflux. A solution of crotonaldehyde (3.98 ml) in isopropanol (3.8 ml) was then added at a rate of 0.1 ml/min using a syringe pump and the mixture was stirred at reflux for another 40 min after the end of the addition. The mixture was cooled to r.t., diluted with EtOAc and 5% aq. NH4OH. The products were extracted in EtOAc and the organic layer was washed several times with water, brine, and dried over Na2SO4. The crude material was dissolved as much as possible in 300 ml boiling toluene and purified by flash chromatography on silica with a gradient of EtOAc/toluene 0 to 5%. The first product was 6-bromo-7-iodo-2-methylquinoline followed by its isomer 6-bromo-5-iodo-2-methylquinoline.

reactant | (4-bromo-3-iodophenyl)amine | 40 mmol, 11.93 g | BrC1=C(C=C(C=C1)N)I | C6H5BrIN
reactant | HCl | 6 ml | Cl | ClH
reactant | p-chloranil | 9.83 g, 1 equiv. | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | crotonaldehyde | 3.98 ml | C(\C=C\C)=O | C4H6O
solvent | isopropanol | 3.8 ml | C(C)(C)O | C3H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NH4OH | [NH4+].[OH-]
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 6-bromo-7-iodo-2-methylquinoline | BrC=1C=C2C=CC(=NC2=CC1I)C | C10H7BrIN
